US07704989B2
54 μl of 2-chloroaniline, 211 mg of HATU, 75 mg of 1-hydroxyaminotriazole and 237 μl of N,N-diisopropylethylamine are added to a solution of 100 mg of 6-chloroimidazo[1,2-a]pyridine-2-carboxylic acid in 1 ml of N,N-dimethylformamide. The reaction mixture is heated at 70° C. for 16 hours, diluted with a saturated sodium hydrogencarbonate solution and extracted with ethyl acetate. The combined organic phases are dried and concentrated under reduced pressure. The residue is purified by flash chromatography on silica, elution being carried out with a hexane/ethyl acetate 70/30 mixture to give 62 mg of 6-chloro-N-(2-chlorophenyl)imidazo[1,2-a]pyridine-2-carboxamide in the form of a white solid.

reactant | 2-chloroaniline | 54 μl | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | HATU | 211 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-hydroxyaminotriazole | 75 mg | ONN1N=NC=C1 | C2H4N4O
reactant | N,N-diisopropylethylamine | 237 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 6-chloroimidazo[1,2-a]pyridine-2-carboxylic acid | 100 mg | ClC=1C=CC=2N(C1)C=C(N2)C(=O)O | C8H5ClN2O2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | 6-chloro-N-(2-chlorophenyl)imidazo[1,2-a]pyridine-2-carboxamide | 62 mg | ClC=1C=CC=2N(C1)C=C(N2)C(=O)NC2=C(C=CC=C2)Cl | C14H9Cl2N3O
